US09227978B2
2′,5′,6-Trichloro-4-methoxy-[1,1′-biphenyl]-3-amine
A mixture of 4-chloro-5-iodo-2-methoxybenzenamine (4.1 g, 14.5 mmol), 2,5-dichlorophenylboronic acid (3.3 g, 17.4 mmol), Pd(PPh3)4 (500 mg, 1.45 mmol) and Na2CO3 (4.7 g, 43.5 mmol) in 1,4-dioxane (150 mL) and water (15 mL) was stirred at 80° C. under argon for 16 h. The mixture was allowed to cool to room temperature, and then partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate=20:1) to afford the desired product (3.3 g, 75.8% yield) as an off-white solid.

reactant | 4-chloro-5-iodo-2-methoxybenzenamine | 14.5 mmol, 4.1 g | ClC1=CC(=C(C=C1I)N)OC | C7H7ClINO
reactant | 2,5-dichlorophenylboronic acid | 17.4 mmol, 3.3 g | ClC1=C(C=C(C=C1)Cl)B(O)O | C6H5BCl2O2
reactant | Na2CO3 | 43.5 mmol, 4.7 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | water | 15 mL | O | H2O
catalyst | Pd(PPh3)4 | 1.45 mmol, 500 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′,5′,6-Trichloro-4-methoxy-[1,1′-biphenyl]-3-amine | 3.3 g, 75.8% yield | ClC1=C(C=C(C=C1)Cl)C1=CC(=C(C=C1Cl)OC)N | C13H10Cl3NO
